US04898863
A solution of methyl 4-methyl-3-nitrobenzoate (4.46 g) in N,N-dimethylformamide (23 ml) was treated with N,N-dimethylformamide dimethyl acetal (8.18 g) and heated at 130° C. for 2 hours. The solvent was evaporated and the residue was triturated with ether to give methyl E-4-(2-dimethylaminovinyl)3-nitrobenzoate (5.58 g, 98%) as a red powder; NMR (80 MHz, CDCl3) 2.98[s, 6H, N(CH3)2 ], 5.90(d, 1H, CHN), 7.14(d, 1H, CHCHN), 7.45(d, 1H, H5 -Ar), 7.90(dd, 1H, H6 -Ar), 8.47(d, 1H, H2 -Ar).

reactant | methyl 4-methyl-3-nitrobenzoate | 4.46 g | CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO4
reactant | N,N-dimethylformamide dimethyl acetal | 8.18 g | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
product | methyl E-4-(2-dimethylaminovinyl)3-nitrobenzoate | 5.58 g, 98% | CN(/C=C/C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])C | C12H14N2O4
